US05672712
4-Cyanobenzoyl chloride (20 g) was added in portions to a solution of ammonium thiocyanate (9.2 g) in acetone (200 ml) at room temperature, followed by heating under reflux for 20 minutes. The reaction mixture was ice-cooled, and after removal of the insoluble substance by filtration, the filtrate was evaporated under reduced pressure. To the resulting residue were added toluene (100 ml) and cyclopropylamine (7.6 g) successively, followed by stirred for 30 minutes. The precipitated crystals were collected by filtration and recrystallized from ethyl acetate to give 1-(4-cyanobenzoyl)-3-cyclopropylthiourea (20 g) as a colorless powder.

reactant | 4-Cyanobenzoyl chloride | 20 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | ammonium thiocyanate | 9.2 g | [S-]C#N.[NH4+]
reactant | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(4-cyanobenzoyl)-3-cyclopropylthiourea | 20 g | C(#N)C1=CC=C(C(=O)NC(=S)NC2CC2)C=C1 | C12H11N3OS
